US09108944B2
An oil bath was preheated to 130° C. A mixture of 2-chloro-5-iodo-3-(trifluoromethyl)pyridine (47 g, 152.8 mmol), (4-methoxyphenyl)methanamine (23.8 mL, 183.4 mmol), Xantphos (2.6 g, 4.58 mmol) and NaOtBu (22 g, 229.2 mmol) in toluene (500 mL) was stirred at room temperature while bubbling nitrogen for 5 min. Pd2(dba)3 (2.8 g, 3.05 mmol) was then added and the reaction mixture was refluxed for 2 h. The mixture was cooled to room temperature and it was filtered through a pad of celite. The pad of celite was washed with toluene and the filtrate was concentrated. The residue obtained was dissolved in EtOAc, the organic layer was washed with water (4×), and it was then evaporated to dryness. The dark oil obtained was dissolved in DCM and hexanes was added with swirling until a brown solid precipitated. The brown solid was filtered, washed with hexanes, and dried to afford 38.8 g (80%) of 6-chloro-N-(4-methoxybenzyl)-5-(trifluoromethyl)pyridin-3-amine as a brown solid. 1H NMR (300 MHz, DMSO-d6) δ 7.96 (d, 1H), 7.38 (d, 1H), 7.29 (d, 2H), 7.07 (t, 1H), 6.92 (d, 2H), 4.29 (d, 2H), 3.73 (s, 3H). The filtrate was purified by column chromatography on Silica Gel eluting with 0 to 50% EtOAc/Hexanes to afford an additional 4 g of 6-chloro-N-(4-methoxybenzyl)-5-(trifluoromethyl)pyridin-3-amine as an orange solid (Total yield: 42.8 g).

reactant | 2-chloro-5-iodo-3-(trifluoromethyl)pyridine | 152.8 mmol, 47 g | ClC1=NC=C(C=C1C(F)(F)F)I | C6H2ClF3IN
reactant | (4-methoxyphenyl)methanamine | 183.4 mmol, 23.8 mL | COC1=CC=C(C=C1)CN | C8H11NO
reactant | NaOtBu | 229.2 mmol, 22 g | CC(C)(C)[O-].[Na+]
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 3.05 mmol, 2.8 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 4.58 mmol, 2.6 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 6-chloro-N-(4-methoxybenzyl)-5-(trifluoromethyl)pyridin-3-amine | 38.8 g, 80% | ClC1=C(C=C(C=N1)NCC1=CC=C(C=C1)OC)C(F)(F)F | C14H12ClF3N2O
